US09120822B2
1,4-diazabicyclo[2.2.2]octane (1.04 g, 9.26 mmol) is added at room temperature to a stirred solution of (3-mercapto-6-methoxy-quinoline-4-yl)-methanol and its corresponding dimer (2.02 g) in acrylic acid ethyl ester (21.7 mL, 203.72 mmol). The reaction mixture is heated under reflux for 2 hours, cooled down to room temperature and concentrated to afford 4-hydroxy-6-methoxy-3,4-dihydro-2H-1-thia-9-aza-phenanthrene-3-carboxylic acid ethyl ester as a dark brown solid (1.47 g, 99.5% yield).

reactant | 1,4-diazabicyclo[2.2.2]octane | 9.26 mmol, 1.04 g | N12CCN(CC1)CC2 | C6H12N2
reactant | (3-mercapto-6-methoxy-quinoline-4-yl)-methanol | SC=1C=NC2=CC=C(C=C2C1CO)OC | C11H11NO2S
reactant | acrylic acid ethyl ester | 203.72 mmol, 21.7 mL | C(C)OC(C=C)=O | C5H8O2
product | 4-hydroxy-6-methoxy-3,4-dihydro-2H-1-thia-9-aza-phenanthrene-3-carboxylic acid ethyl ester | 1.47 g, 99.5% yield | C(C)OC(=O)C1CSC=2C=NC3=CC=C(C=C3C2C1O)OC | C16H17NO4S
